US07001897B2
(2) (1R,5S,6S)-2-(1-{4-[N-(2-aminoethyl)-N-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid
p-Nitrobenzyl (1R,5S,6S)-2-[1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (610 mg, 0.74 mmol) (obtained as described in Example 65(1)) in a mixture of tetrahydrofuran (30 ml) and distilled water (30 ml) was subjected to catalytic hydrogenation in the presence of 7.5% palladium on charcoal (610 mg) in a water bath (35° C.) for 2 hours. After checking the completion of the reaction, ethyl acetate and distilled water were added to the reaction mixture. The resulting mixture was shaken in a separatory funnel and the aqueous layer was separated and concentrated under reduced pressure. The residue was purified by chromatography on a Cosmosil column (eluant: distilled water→2% acetonitrile in distilled water→4% acetonitrile in distilled water→6% acetonitrile in distilled water→8% acetonitrile in distilled water→10% acetonitrile in distilled water→12% acetonitrile in distilled water→14% acetonitrile in distilled water→16% acetonitrile in distilled water→18% acetonitrile in distilled water) and the eluate was lyophilized to afford the desired compound (1R,5S,6S)-2-(1-{4-[N-(2-aminoethyl)-N-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid (104 mg, yield 28%) as a white solid.

reactant | p-Nitrobenzyl (1R,5S,6S)-2-[1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 0.74 mmol, 610 mg | C(C)(C)N(C(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)CCNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-] | C37H41N7O11S2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (1R,5S,6S)-2-(1-{4-[N-(2-aminoethyl)-N-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid | 104 mg, yield 28% | NCCN(C(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C)C(C)C | C22H31N5O5S2
